US08455522B2
5-(4-(1-hydroxypropyl)pyridin-3-yl)-3-methylbenzo[d]oxazol-2(3H)-one
Ethylmagnesium bromide (3 M in THF, 0295 mL, 0.885 mmol) was added dropwise to a solution of 3-(3-Methyl-2-oxo-2,3-dihydro-benzooxazol-5-yl)-pyridine-4-carbaldehyde (75 mg, 0.295 mmol) in THF (2 mL) at −36° C. The resulting mixture was stirred at this temperature for 3 h, and the reaction was quenched by the addition of saturated NH4Cl solution. The mixture was diluted with ethyl acetate and water. The organic layer was separated and dried over anhydrous Na2SO4. After filtration and concentration, the residue was purified by reverse phase chromatography (10%-100%, v/v, ACN-water), 6 mg of desired product was obtained. ESI-MS m/z: 285.1 [M+1]+, Retention time 1.00 min; 1HNMR (CDCl3, 400.342 MHz) δ ppm 0.74 (t, J=7.3 Hz, 3H), 1.47-1.53 (m, 2H), 3.40 (s, 3H), 4.93 (t, J=5.5 Hz, 1H), 7.03 (dd, J=8.1, 1.2 Hz, 1H), 7.16 (s, 1H), 7.25 (d, J=8.1 Hz, 1H), 8.03 (d, J=5 Hz, 1H), 8.36 (s, 1H), 8.52 (d, J=5 Hz, 1H).

reactant | Ethylmagnesium bromide | 0.885 mmol, 3 M | C(C)[Mg]Br
reactant | 3-(3-Methyl-2-oxo-2,3-dihydro-benzooxazol-5-yl)-pyridine-4-carbaldehyde | 0.295 mmol, 75 mg | CN1C(OC2=C1C=C(C=C2)C=2C=NC=CC2C=O)=O | C14H10N2O3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-(4-(1-hydroxypropyl)pyridin-3-yl)-3-methylbenzo[d]oxazol-2(3H)-one | 6 mg | OC(CC)C1=C(C=NC=C1)C=1C=CC2=C(N(C(O2)=O)C)C1 | C16H16N2O3
